US07365200B2
Methyl 2-amino-thiophene-3-carboxylate (5 g, 31.72 mmol) was added to a solution of potassium hydroxide (3.55 g, 63.45 mmol) in 10 mL water. The solution was heated at 90° C. until to get a clear solution. The solution was then cooled to 0° C. and trichloromethyl chloroformate (5.74 mL, 47.57 mmol) was added slowly. The solution was allowed to come to room temperature and further stirred for 30 min. The precipitated solid was collected by vacuum filtration to yield 4.7 g (88%) of 1H-thieno[2,3-d][1,3]oxazine-2,4-dione. MP 233° C. 1H-NMR (DMSO-d6) δ 7.15 (d, J=6.0 Hz, 1H), 7.19 (d, J=6.0 Hz, 1H) ppm.

reactant | Methyl 2-amino-thiophene-3-carboxylate | 31.72 mmol, 5 g | NC=1SC=CC1C(=O)OC | C6H7NO2S
reactant | potassium hydroxide | 63.45 mmol, 3.55 g | [OH-].[K+]
reactant | trichloromethyl chloroformate | 47.57 mmol, 5.74 mL | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
solvent | water | 10 mL | O | H2O
product | 1H-thieno[2,3-d][1,3]oxazine-2,4-dione | 4.7 g, 88% | N1C(OC(C2=C1SC=C2)=O)=O | C6H3NO3S
